US06958408B2
1/Preparation of HSi(CH3)2C8H17 [sic] According to the Reaction (3)
A 10.14 g fraction of HSi(CH3)2C8F17 with a boiling point of 57-59° C. under a pressure of 11 mbar and which comprises, according to 19F NMR, approximately 5% of C8F17I is obtained (yield: 44%).

reactant | HSi(CH3)2C8F17 | [SiH](C)(C)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C10H7F17Si
reactant | C8F17I | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)I | C8F17I
product | HSi(CH3)2C8H17 | [SiH](C)(C)CCCCCCCC | C10H24Si
